US04338333
N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(4-hydroxy-3-hydroxymethylphenyl)ethanamine
A mixture of 1-(4-carbomethoxymethoxyphenyl)propan-2-one (1.5 g) and 2-hydroxy-2-(4-hydroxy-3-hydroxymethylphenyl)ethanamine (1.23 g) in ethanol (80 ml) was refluxed 0.5 hours, cooled to ambient temperature, 10% Pd/C added and the mixture hydrogenated at 75 psi and 50°-60° for 8 hours. The solution was filtered, evaporated, the residue taken up in ethyl acetate and filtered again. Removal of the solvent gave an oil which was crystallised and recrystallised from benzene to give the title compound, 0.47 g, mp 60°-63° as a 52:48 mixture of diastereoisomers. τ(d6DMSO) 9.1 (3H, d, J=6 Hz), 6.6-7.8 (5H, m), 6.4 (3H, s), 5.72 (1H, t, J=6 Hz), 5.54 (2H, s), 5.3 (2H, s), 7.2-6.4 (7H, m), 7.6-5.5 (4H, broad, disappears with D2O).

reactant | 1-(4-carbomethoxymethoxyphenyl)propan-2-one | 1.5 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)=O | C12H14O4
reactant | 2-hydroxy-2-(4-hydroxy-3-hydroxymethylphenyl)ethanamine | 1.23 g | OC(CN)C1=CC(=C(C=C1)O)CO | C9H13NO3
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(4-hydroxy-3-hydroxymethylphenyl)ethanamine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCC(C1=CC(=C(C=C1)O)CO)O | C21H27NO6
